US05243087
To a solution 0.07 g of sodium hydride (60% oil dispersion) in 10 ml of N,N-dimethylformamide, there was added dropwise a solution of 0.50 g of 2-chloro-4-(3-trifluoromethylphenoxy)phenol in 3 ml of N,N-dimethylformamide with stirring and ice-cooling. After 30 minutes, a solution of 0.28 g of 2-chloro-5-chloromethylpyridine in 5 ml of N,N-dimethylformamide was added thereto at room temperature, followed by stirring at the same temperature for 10 hours. The reaction mixture was poured into ice-water and extracted twice with 100 ml of ethyl acetate. The extracts were combined together, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 2-chloro-5-[2-chloro-4-(3-trifluoromethylphenoxy)phenoxy]methylpyridine.

reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | 2-chloro-4-(3-trifluoromethylphenoxy)phenol | 0.50 g | ClC1=C(C=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)O | C13H8ClF3O2
reactant | 2-chloro-5-chloromethylpyridine | 0.28 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-chloro-5-[2-chloro-4-(3-trifluoromethylphenoxy)phenoxy]methylpyridine | ClC1=NC=C(C=C1)COC1=C(C=C(C=C1)OC1=CC(=CC=C1)C(F)(F)F)Cl | C19H12Cl2F3NO2
